US07625932B2
Preparation of 2-cyanophenylboronic acid
Dissolve 2-bromobenzonitrile (melt in water bath at 65° C. before use, 6.733 kg, 37.0 mol, 1 eq) in THF (52.5 L) in a cryogenic reactor and cool to −78° C. Add triisopropylborate (13.96 kg, 74 mol, 2 eq). Allow the mixture to cool to −78° C. again. Add hexyllithium (2.5M in hexane, 15.38 kg, 55.5 mol, 1.5 eq) over a period of 2 h (max internal temp=69° C.). After the addition, stir for 1 h at −75° C. Add the mixture (−74° C.) to water (48 L, 5° C.) over a period of 15 min with stirring to give a slightly yellow emulsion (−1° C.). Warm the mixture to 23° C. and stir at this temperature for 90 min. Separate the layers. Extract the aqueous layer with isopropyl acetate (24 L). Combine the organic layers and re-extract with brine (22 L). Combine the aqueous layers and acidify to pH 1 with 1M sulfuric acid (31 L). Extract the product twice with isopropyl acetate (41 L and 39 L). Combine the organic layers and stir overnight with brine (21 L) at 2° C. Collect the organic solution (90 L) and distill under reduced pressure at 50-60° C. to reduce the volume to 10 L. Strip the suspension with isopropyl acetate (11 L). Add methylcyclohexane (20 L) at 25° C. Cool the suspension to -7° C. Collect the precipitated product by filtration. Wash the filter cake with a mixture of isopropyl acetate (2 L) and methylcyclohexane (4 L). Dry the filter cake on the rotovap at reduced pressure at 50° C. to obtain 2.997 kg of title compound as a white powder; 55% yield (poor yield due to some material sticking to the reactor wall). 1H NMR (solvent-dx): § 7.53 (dt, 1H, J=1.5 Hz, 7.5 Hz), 7.62 (dt, 1H, J=1.5 Hz, 7.5 Hz), 7.73 (m, 2H).

reactant | 2-bromobenzonitrile | 37.0 mol, 6.733 kg, 1 eq | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | triisopropylborate | 74 mol, 13.96 kg, 2 eq | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hexyllithium | 55.5 mol, 2.5M, 15.38 kg, 1.5 eq | C(CCCCC)[Li]
reactant | water | 48 L | O | H2O
solvent | THF | 52.5 L | C1CCOC1 | C4H8O
product | 2-cyanophenylboronic acid | 2.997 kg, 55% yield | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
